US08389524B2
(1R)-1-[(4-{[(8-Fluoro-2,3-dihydro-1,4-benzodioxin-6-yl)methyl]amino}-1-piperidinyl)methyl]-1,2-dihydro-4H,9H-imidazo[1,2,3-ij]-1,8-naphthyridine-4,9-dione hydrochloride
A suspension of (1R)-1-({4-[(1,2,3-benzothiadiazol-5-ylmethyl)amino]-1-piperidinyl}methyl)-1,2-dihydro-4H,9H-imidazo[1,2,3-ij]-1,8-naphthyridine-4,9-dione dihydrochloride (for a preparation see Example 5A(j)) (50 mg, 0.134 mmol) in chloroform (2 ml) and methanol (0.100 ml) at rt under argon was treated with triethylamine (0.056 ml, 0.402 mmol) and stirred at rt for 15 min. The solution was then treated with 8-fluoro-2,3-dihydro-1,4-benzodioxin-6-carbaldehyde (for a synthesis see WO2007122258, Example 8(b)) (21.96 mg, 0.121 mmol) and stirred for a further 30 min. The solution was treated with sodium triacetoxyborohydride (85 mg, 0.402 mmol) and stirred at rt for 30 min, LCMS after 30 min showed there was still starting material and the imine of the product. So more sodium triacetoxyborohydride (40 mg) was added, the reaction was stirred for a further 30 min. LCMS after this time showed that the reaction was complete. The reaction was then treated with saturated aqueous NaHCO3 (10 ml) and extracted with 20% methanol/DCM (3×25 ml). The combined organic fractions were dried (MgSO4), filtered, evaporated and chromatographed (0-20% methanol/DCM) to give the free base of the title compound (6 mg, 9.6%) as a pale yellow solid and some crude product (15 mg, 24%) as an impure pale yellow solid which was purified using an SCX column to give more identical title compound, free base.

reactant | (1R)-1-({4-[(1,2,3-benzothiadiazol-5-ylmethyl)amino]-1-piperidinyl}methyl)-1,2-dihydro-4H,9H-imidazo[1,2,3-ij]-1,8-naphthyridine-4,9-dione dihydrochloride | Cl.Cl.S1N=NC2=C1C=CC(=C2)CNC2CCN(CC2)C[C@@H]2CN1C(C=CC=3C=CC(N2C13)=O)=O
reactant | triethylamine | 0.402 mmol, 0.056 ml | C(C)N(CC)CC | C6H15N
reactant | 8-fluoro-2,3-dihydro-1,4-benzodioxin-6-carbaldehyde | FC1=CC(=CC2=C1OCCO2)C=O | C9H7FO3
reactant | sodium triacetoxyborohydride | 0.402 mmol, 85 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium triacetoxyborohydride | 40 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaHCO3 | 10 ml | C(=O)(O)[O-].[Na+]
solvent | chloroform | 2 ml | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 0.100 ml | CO | CH4O
product | (1R)-1-[(4-{[(8-Fluoro-2,3-dihydro-1,4-benzodioxin-6-yl)methyl]amino}-1-piperidinyl)methyl]-1,2-dihydro-4H,9H-imidazo[1,2,3-ij]-1,8-naphthyridine-4,9-dione hydrochloride | 6 mg, 9.6% | Cl.FC1=CC(=CC2=C1OCCO2)CNC2CCN(CC2)C[C@@H]2CN1C(C=CC=3C=CC(N2C13)=O)=O | InChI=1S/C25H27FN4O4.ClH/c26-20-11-16(12-21-24(20)34-10-9-33-21)13-27-18-5-7-28(8-6-18)14-19-15-29-22(31)3-1-17-2-4-23(32)30(19)25(17)29;/h1-4,11-12,18-19,27H,5-10,13-15H2;1H/t19-;/m1./s1
